US08314088B2
N-cyclobutyl-N-methyl-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine hydrochloride
To a solution of 8-benzyl-N-cyclobutyl-N-methyl-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine (0.48 g) in methanol (10 mL) was added 20% Pd(OH)2/C (90 mg), and the mixture was stirred under a hydrogen atmosphere at 50° C. for 3 hr. The reaction mixture was filtered, and the filtrate was concentrated. To a solution of the obtained crude product in ethyl acetate (10 mL) was added a 4 N hydrogen chloride-ethyl acetate solution (400 μL), and the mixture was stirred for 30 min. The reaction mixture was filtered, and the obtained crystals were purified by recrystallization (methanol-ethyl acetate) to give the title compound (257 mg, 65%) as a colorless powder.

reactant | 8-benzyl-N-cyclobutyl-N-methyl-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine | 0.48 g | C(C1=CC=CC=C1)N1CCOC2=C(C1)N=CC(=N2)N(C)C2CCC2 | C19H24N4O
reactant | hydrogen chloride-ethyl acetate | 4 N, 400 μL | C(C)(=O)OCC.Cl
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd(OH)2/C | 90 mg | [OH-].[OH-].[Pd+2]
product | N-cyclobutyl-N-methyl-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine hydrochloride | 257 mg, 65% | Cl.C1(CCC1)N(C1=NC2=C(CNCCO2)N=C1)C | InChI=1S/C12H18N4O.ClH/c1-16(9-3-2-4-9)11-8-14-10-7-13-5-6-17-12(10)15-11;/h8-9,13H,2-7H2,1H3;1H
